US06096710
The Boc-Gly-Pro-OBz (19.4 g, 0.054 mol.) was dissolved in a mixture of 100 ml H2O and 100 ml THF. After cooling the solution to 0° C., KOH (4.8 g, 0.085 mol.) in 50 ml H2O was added slowly. The solution was stirred for one hour. Then, the THF was removed under reduced pressure and the aqueous solution was extracted with ethyl acetate to remove the benzyl alcohol. The resulting aqueous phase was covered by 200 ml ethyl acetate and was acidified at 0° C. to about pH 2 by addition of concentrated HCl slowly (vigorously swirling the solution at the same time). The product was extracted from the aqueous phase with ethyl acetate 3×200 ml. The organic layers were combined and washed with brine 2×30 ml, and dried by Na2SO4. Removal of the ethyl acetate gave the product Boc-Gly-Pro-OH (white solid, 12.3 g, 85%) TLC Rf=0.25 (CMA, 85:15:3) FAB-MS, observed MH+ =273. 1H-NMR (360 MHz, DMSO-d6, 20° C.) δ 12.55 (s, 1H, carboxyl), 6.79 (s, NH-major), 4.50 (dd, 0.25H, Pro α-minor), 4.20 (dd, 0.71H, Pro-α-major), 3.81-3.62 (m, 1.7H, Gly-α-major) 3.47-3.33 (m, 2H, Pro-δ and Gly-α-minor), 2.25-2.00 (m, 1.2H, Pro-β), 1.96-1.60 (m, 2.7H, Pro-β and Pro-γ), 1.36 (s, 9H, Boc).

reactant | Boc-Gly-Pro-OBz | 0.054 mol, 19.4 g | N(CC(=O)N1[C@H](C(=O)OC(=O)C2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C19H24N2O6
reactant | KOH | 0.085 mol, 4.8 g | [OH-].[K+]
solvent | H2O | 100 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | H2O | 50 ml | O | H2O
product | Boc-Gly-Pro-OH | 12.3 g, 85% | N(CC(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C12H20N2O5
